US06423707B1
The reaction mixture of 5-nitro-2-furoic acid (157 mg, 1.0 mmol), 1-(3-hydroxypropyl)-2-methyl-5-nitroimidazole (184 mg, 1.0 mmol), EDCI (260 mg, 1.3 mmol), DMAP (10 mg, 0.1 mmol) and THF (5 ml) will be stirred at room temperature for 10 h. Evaporation of THF gives a residue which will be dissolved in ethyl acetate. The organic layer of ethyl acetate will be washed with H2O, 5% Na2CO3, H2O and brine, and then dried over MgSO4. The solvent will be removed under vacuum. The resulting solid will be recrystallized from C2H5OH to give 2-methyl-5-nitro-1H-imidazole-1-propyl 5-nitro-2-furoate.

reactant | 5-nitro-2-furoic acid | 1.0 mmol, 157 mg | [N+](=O)([O-])C1=CC=C(O1)C(=O)O | C5H3NO5
reactant | 1-(3-hydroxypropyl)-2-methyl-5-nitroimidazole | 1.0 mmol, 184 mg | OCCCN1C(=NC=C1[N+](=O)[O-])C | C7H11N3O3
reactant | EDCI | 1.3 mmol, 260 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 0.1 mmol, 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methyl-5-nitro-1H-imidazole 1-propyl 5-nitro-2-furoate | CC=1NC(=CN1)[N+](=O)[O-].[N+](=O)([O-])C1=CC=C(O1)C(=O)OCCC | InChI=1S/C8H9NO5.C4H5N3O2/c1-2-5-13-8(10)6-3-4-7(14-6)9(11)12;1-3-5-2-4(6-3)7(8)9/h3-4H,2,5H2,1H3;2H,1H3,(H,5,6)
